US08017775B2
6-(2-Methoxyphenyl)-5-[(pyrrolidin-1-yl)methyl]-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 6-1)
A mixture of 5-chloromethyl-6-(2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 5-1, 41.2 mg, 0.126 mmol), pyrrolidine (52.6 μL, 0.630 mmol) and potassium carbonate (34.8 mg, 0.252 mmol) was suspended in anhydrous N,N-dimethylformamide (1 mL), and the reaction mixture was stirred at 50° C. for 1 hour. After cooling down, it was diluted with ethyl acetate (50 mL). The whole was washed with water (50 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (36.1 mg) as a colorless solid. (Yield 79%)

reactant | 5-chloromethyl-6-(2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | ClCC1=C2C(=CC(NC2=CC=C1C1=C(C=CC=C1)OC)(C)C)C | C20H22ClNO
reactant | pyrrolidine | 0.630 mmol, 52.6 μL | N1CCCC1 | C4H9N
reactant | potassium carbonate | 0.252 mmol, 34.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-(2-Methoxyphenyl)-5-[(pyrrolidin-1-yl)methyl]-2,2,4-trimethyl-1,2-dihydroquinoline | 36.1 mg, Yield 79% | COC1=C(C=CC=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CN1CCCC1 | C24H30N2O
